USRE029358
Preparation of 1,5-Bis(p-chlorophenyl)-1,4-pentadien-3-one 1,3-diaza-2-cyclododecen-2-ylhydrazone hydrobromide
The pentadiene in accordance with claim 10, 1,5-bis(p-chlorophenyl)-1,4-pentadiene-3-one 5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-ylhydrazone hydrobromide. 13. The pentadiene in accordance with claim 1, 1,5-bis(p-chlorophenyl)-1,4-pentadiene-3-one 3α ,4,5,6,7,7a-hexahydrobenzimidazol-2-yl-hydrazone hydrochloride. 14. The pentadiene in accordance with claim 1, 1,5-bis(p-chlorophenyl)-1,4-pentadien-3-one 3α ,4,5,6,7,7a-hexahydrobenzimidazol-2-yl-hydrazone hydrobromide. 15. The pentadiene in accordance with claim 1, 1,5-bis(p-chlorophenyl)-1,4-pentadiene-3-one 3a,4,5,6,7,7a-hexahydrobenzimidazol-2-yl-hydrazone.

reactant | pentadiene | C=CC=CC | C5H8
reactant | 1,5-bis(p-chlorophenyl)-1,4-pentadiene-3-one 5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-ylhydrazone hydrobromide | Br.CC1(CN=C(NC1)NN=C(C=CC1=CC=C(C=C1)Cl)C=CC1=CC=C(C=C1)Cl)C
reactant | 1,5-bis(p-chlorophenyl)-1,4-pentadiene-3-one 3a,4,5,6,7,7a-hexahydrobenzimidazol-2-yl-hydrazone | N1=C(NC2C1CCCC2)NN=C(C=CC2=CC=C(C=C2)Cl)C=CC2=CC=C(C=C2)Cl | C24H24Cl2N4
product | 1,5-Bis(p-chlorophenyl)-1,4-pentadien-3-one 1,3-diaza-2-cyclododecen-2-ylhydrazone hydrobromide | Br.N1C(=NCCCCCCCCC1)NN=C(C=CC1=CC=C(C=C1)Cl)C=CC1=CC=C(C=C1)Cl | InChI=1S/C27H32Cl2N4.BrH/c28-24-14-8-22(9-15-24)12-18-26(19-13-23-10-16-25(29)17-11-23)32-33-27-30-20-6-4-2-1-3-5-7-21-31-27;/h8-19H,1-7,20-21H2,(H2,30,31,33);1H
